US07012089B2
6-Chloro-3-methyl-2,3,4,5,9,10,11,12,13,13a-decahydro-1H,8bH-cyclohepta[b][1,4]diazocino[7,8,1-hi]indole
To a solution of 6-chloro-3-methyl-2,3,4,5,10,11,12,13-octahydro-1H,9H-cyclohepta[b][1,4]diazocino[7,8,1-hi]indole (0.20 g, 0.66 mmole) in acetic acid (50 mL) was added excess sodium cyanoborohydride (0.21 g, 3.3 mmole) and the reaction mixture was stirred at room temperature for 5 hours. The solvent was removed in vacuo and the residue was diluted with ethyl acetate (200 mL) and washed with saturated sodium bicarbonate (150 mL), saturated sodium chloride (150 mL), dried (sodium sulfate) and concentrated. Purification by flash column chromatography (silica gel, ethyl acetate:hexanes 3:2) provided 0.17 g of the title compound. This was further treated with one equivalent of fumaric acid in ethanol to form a fumarate salt, mp 190-193° C. MS (ESI) m/z 305 ([M+H]+).

reactant | 6-chloro-3-methyl-2,3,4,5,10,11,12,13-octahydro-1H,9H-cyclohepta[b][1,4]diazocino[7,8,1-hi]indole | 0.66 mmole, 0.20 g | ClC1=CC=C2C3=C(N4C2=C1CCN(CC4)C)CCCCC3 | C18H23ClN2
reactant | sodium cyanoborohydride | 3.3 mmole, 0.21 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 6-Chloro-3-methyl-2,3,4,5,9,10,11,12,13,13a-decahydro-1H,8bH-cyclohepta[b][1,4]diazocino[7,8,1-hi]indole | 0.17 g | ClC1=CC=C2C3C(N4C2=C1CCN(CC4)C)CCCCC3 | C18H25ClN2
